US04521430
3.73 g of (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are dissolved in 40 ml of acetone, and 2.07 g of potassium carbonate are added thereto. 2.04 g of 4-nitrobenzoyl chloride are added at room temperature to the mixture under stirring, and said mixture is stirred at the same temperature overnight. After the reaction, the mixture is treated in the same manner as described in Example 8. 3.8 g of (+)-cis-2-(4-methoxyphenyl)-3-(4-nitrobenzoyloxy)-5-[2-(dimethylamino)-ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are obtained.

reactant | (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 3.73 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=CC=C2 | C20H24N2O3S
reactant | potassium carbonate | 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-nitrobenzoyl chloride | 2.04 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | (+)-cis-2-(4-methoxyphenyl)-3-(4-nitrobenzoyloxy)-5-[2-(dimethylamino)-ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 3.8 g, Yield: 73% | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C1=CC=C(C=C1)[N+](=O)[O-])=O)=O)CCN(C)C)C=CC=C2 | C27H27N3O6S
